US07598391B2
1,1-Dicyclohexyl-3-[4-(pyrdin-2-ylsulfanylmethyl)-thiazol-2-yl]urea
Prepared as described in general procedure (L) from 1,1-dicyclohexyl-3-(4-bromomethyl-thiazol-2-yl)urea and 2-mercaptopyridine.

reactant | 1,1-dicyclohexyl-3-(4-bromomethyl-thiazol-2-yl)urea | C1(CCCCC1)N(C(=O)NC=1SC=C(N1)CBr)C1CCCCC1 | C17H26BrN3OS
reactant | 2-mercaptopyridine | SC1=NC=CC=C1 | C5H5NS
product | 1,1-Dicyclohexyl-3-[4-(pyrdin-2-ylsulfanylmethyl)-thiazol-2-yl]urea | C1(CCCCC1)N(C(=O)NC=1SC=C(N1)CSC1=NC=CC=C1)C1CCCCC1 | C22H30N4OS2
